US07514446B2
To a mixture of 2-[(2-chloro-5-nitropyrimidin-4-yl)amino]-N-methylbenzamide (54 mg, 0.178 mmol) and N-(4-aminophenyl)acetamide (28 mg, 0.185 mmol) in 2-propanol (2 mL) was added 1N HCl in diethyl ether (50 uL, 0.05 mmol). The reaction mixture was heated at 90° C. for 30 hours. After the reaction was cooled to room temperature the mixture was filtered, and the solid was washed with 2-propanol, hexane, and ethyl acetate. The solid was then dried under vacuum to give 2-[(2-{[4-(acetylamino)phenyl]amino}-5-nitropyrimidin-4-yl)amino]-N-methylbenzamide hydrochloride (58 mg, 71%) as a yellow tan solid. 1H NMR (DMSO-d6/D2O): δ 9.05 (s, 1H), 8.20 (m, 1H), 7.59 (d, 1 H), 7.40-7.50 (m, 5 H), 7.24 (t, 1 H), 2.76 (s, 3 H), 2.02 (s, 3H). MS m/z 421 (M+1).

reactant | 2-[(2-chloro-5-nitropyrimidin-4-yl)amino]-N-methylbenzamide | 0.178 mmol, 54 mg | ClC1=NC=C(C(=N1)NC1=C(C(=O)NC)C=CC=C1)[N+](=O)[O-] | C12H10ClN5O3
reactant | N-(4-aminophenyl)acetamide | 0.185 mmol, 28 mg | NC1=CC=C(C=C1)NC(C)=O | C8H10N2O
reactant | HCl | 1N | Cl | ClH
reactant | diethyl ether | 0.05 mmol, 50 uL | C(C)OCC | C4H10O
solvent | 2-propanol | 2 mL | CC(C)O | C3H8O
product | 2-[(2-{[4-(acetylamino)phenyl]amino}-5-nitropyrimidin-4-yl)amino]-N-methylbenzamide hydrochloride | 58 mg, 71% | Cl.C(C)(=O)NC1=CC=C(C=C1)NC1=NC=C(C(=N1)NC1=C(C(=O)NC)C=CC=C1)[N+](=O)[O-] | InChI=1S/C20H19N7O4.ClH/c1-12(28)23-13-7-9-14(10-8-13)24-20-22-11-17(27(30)31)18(26-20)25-16-6-4-3-5-15(16)19(29)21-2;/h3-11H,1-2H3,(H,21,29)(H,23,28)(H2,22,24,25,26);1H
